US09216999B2
Benzyl 3-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidine-1-carboxylate
Benzyl 3-[amino(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methyl]piperidine-1-carboxylate (63 mg, 0.13 mmol) in N,N-dimethylformamide dimethyl acetal (1 mL) was stirred at 170° C. for 30 minutes under microwave irradiation. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure, and the resulting residue was dissolved in 1,3-dimethylimidazolidin-2-one (1 mL) and stirred at 230° C. for 1.5 hours under microwave irradiation. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate and washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate was purified by silica gel thin layer chromatography (hexane/ethyl acetate=1/1→1/2 (v/v)) to give a brown oil containing the title compound (45.2 mg). The resulting mixture was used for the next step.

reactant | Benzyl 3-[amino(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)methyl]piperidine-1-carboxylate | 0.13 mmol, 63 mg | NC(C1CN(CCC1)C(=O)OCC1=CC=CC=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H37N5O3Si
reactant | N,N-dimethylformamide dimethyl acetal | 1 mL | COC(N(C)C)OC | C5H13NO2
product | Benzyl 3-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-imidazo[1,5-c]pyrrolo[3,2-e]pyrimidin-1-yl)piperidine-1-carboxylate | 45.2 mg | C[Si](CCOCN1C=CC=2C=3N(C=NC21)C=NC3C3CN(CCC3)C(=O)OCC3=CC=CC=C3)(C)C | C27H35N5O3Si
